.title kicad schematic

* u2 clk rst write_en d7 d6 d5 d4 d3 net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ net-_u2-pad14_ net-_u2-pad15_ net-_u2-pad16_ adc_bridge_8
v11 clk gnd pulse(0 3.3 0 1n 1n 5n 10n)
* u4 net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ active_buf full_a full_b dac_bridge_3
* u3 net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ net-_u2-pad14_ net-_u2-pad15_ net-_u2-pad16_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ ping_pong_buffer
v8 d0 gnd pulse(0 3.3 30n 1n 1n 20n 40n)
* u5 active_buf plot_v1
* u6 full_a plot_v1
* u7 full_b plot_v1
* u1 d2 d1 d0 net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ adc_bridge_3
v3 d4 gnd pulse(0 3.3 30n 1n 1n 200n 400n)
v7 d1 gnd pulse(0 3.3 30n 1n 1n 80n 100n)
v1 d6 gnd pulse(0 3.3 30n 1n 1n 100n 200n)
v2 d5 gnd pulse(0 3.3 30n 1n 1n 400n 600n)
v5 d2 gnd pulse(0 3.3 30n 1n 1n 80n 200n)
v4 d3 gnd pulse(0 3.3 30n 1n 1n 40n 80n)
v10 rst gnd pulse(3.3 0 20n 1n 1n 1000n 2000n)
v9 write_en gnd pulse(0 3.3 30n 1n 1n 40n 80n)
v6 d7 gnd pulse(3.3 0 20n 1n 1n 1000n 2000n)
a1 [clk rst write_en d7 d6 d5 d4 d3 ] [net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ net-_u2-pad14_ net-_u2-pad15_ net-_u2-pad16_ ] u2
a2 [net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ ] [active_buf full_a full_b ] u4
a3 [net-_u2-pad9_ ] [net-_u2-pad10_ ] [net-_u2-pad11_ ] [net-_u2-pad12_ net-_u2-pad13_ net-_u2-pad14_ net-_u2-pad15_ net-_u2-pad16_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ ] [net-_u4-pad1_ ] [net-_u4-pad2_ ] [net-_u4-pad3_ ] u3
a4 [d2 d1 d0 ] [net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ ] u1
* Schematic Name:                             adc_bridge_8, Ngspice Name: adc_bridge
.model u2 adc_bridge(in_low=0.5 in_high=3.3 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_3, Ngspice Name: dac_bridge
.model u4 dac_bridge(out_low=0 out_high=3.3 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             ping_pong_buffer, Ngspice Name: ping_pong_buffer
.model u3 ping_pong_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_3, Ngspice Name: adc_bridge
.model u1 adc_bridge(in_low=0.5 in_high=3.3 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 1e-09 300e-09 0e-12

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(active_buf)
plot v(full_a)
plot v(full_b)
.endc
.end
