* C:\FOSSEE\eSim\library\SubcircuitLibrary\programmable_timer_subcircuit\programmable_timer_subcircuit.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 04/21/26 22:35:33

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
U1  Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad3_ Net-_U1-Pad4_ Net-_U1-Pad5_ Net-_U1-Pad6_ Net-_U1-Pad7_ Net-_U1-Pad8_ Net-_U1-Pad9_ Net-_U1-Pad10_ Net-_U1-Pad11_ Net-_U1-Pad12_ Net-_U1-Pad13_ Net-_U1-Pad14_ Net-_U1-Pad15_ Net-_U1-Pad16_ Net-_U1-Pad17_ Net-_U1-Pad18_ Net-_U1-Pad19_ Net-_U1-Pad20_ Net-_U1-Pad21_ Net-_U1-Pad22_ Net-_U1-Pad23_ programmable_timer_verilog		
U3  Net-_U2-Pad1_ Net-_U2-Pad2_ Net-_U2-Pad3_ Net-_U2-Pad4_ Net-_U2-Pad5_ Net-_U2-Pad6_ Net-_U2-Pad7_ Net-_U2-Pad8_ Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad3_ Net-_U1-Pad4_ Net-_U1-Pad5_ Net-_U1-Pad6_ Net-_U1-Pad7_ Net-_U1-Pad8_ adc_bridge_8		
U4  Net-_U2-Pad9_ Net-_U2-Pad10_ Net-_U2-Pad11_ Net-_U2-Pad12_ Net-_U2-Pad13_ Net-_U2-Pad14_ Net-_U1-Pad9_ Net-_U1-Pad10_ Net-_U1-Pad11_ Net-_U1-Pad12_ Net-_U1-Pad13_ Net-_U1-Pad14_ adc_bridge_6		
U5  Net-_U1-Pad15_ Net-_U1-Pad16_ Net-_U1-Pad17_ Net-_U1-Pad18_ Net-_U1-Pad19_ Net-_U1-Pad20_ Net-_U1-Pad21_ Net-_U1-Pad22_ Net-_U2-Pad15_ Net-_U2-Pad16_ Net-_U2-Pad17_ Net-_U2-Pad18_ Net-_U2-Pad19_ Net-_U2-Pad20_ Net-_U2-Pad21_ Net-_U2-Pad22_ dac_bridge_8		
U6  Net-_U1-Pad23_ Net-_U2-Pad23_ dac_bridge_1		
U2  Net-_U2-Pad1_ Net-_U2-Pad2_ Net-_U2-Pad3_ Net-_U2-Pad4_ Net-_U2-Pad5_ Net-_U2-Pad6_ Net-_U2-Pad7_ Net-_U2-Pad8_ Net-_U2-Pad9_ Net-_U2-Pad10_ Net-_U2-Pad11_ Net-_U2-Pad12_ Net-_U2-Pad13_ Net-_U2-Pad14_ Net-_U2-Pad15_ Net-_U2-Pad16_ Net-_U2-Pad17_ Net-_U2-Pad18_ Net-_U2-Pad19_ Net-_U2-Pad20_ Net-_U2-Pad21_ Net-_U2-Pad22_ Net-_U2-Pad23_ PORT		

.end
