.title kicad schematic

v5 rst gnd pwl(0 5 20n 5 20.1n 0)
v6 clk_delayed gnd pulse(0 5 3n 100p 100p 10n 20n)
v7 clk gnd pulse(0 5 0 100p 100p 10n 20n)
* u4 data_in3 plot_v1
* u3 data_in2 plot_v1
* u2 data_in1 plot_v1
* u10 net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u10-pad5_ corrected_data3 corrected_data2 corrected_data1 corrected_data0 error dac_bridge_5
* u9 net-_u8-pad8_ net-_u8-pad9_ net-_u8-pad10_ net-_u8-pad11_ net-_u8-pad12_ net-_u8-pad13_ net-_u8-pad14_ net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u10-pad5_ razor_ff
* u12 corrected_data2 plot_v1
* u11 corrected_data3 plot_v1
* u13 corrected_data1 plot_v1
* u14 corrected_data0 plot_v1
* u15 error plot_v1
v3 data_in2 gnd pwl(0 5 20n 5 20.1n 0)
v4 data_in3 gnd pwl(0 5 60n 5 60.1n 0 100n 0 100.1n 5 140n 5 140.1n 0)
v2 data_in1 gnd pwl(0 5 60n 5 60.1n 5 101.5n 5 101.6n 0 140n 0 140.1n 5)
v1 data_in0 gnd pwl(0 0 60n 0 60.1n 5 100n 5 100.1n 5 140n 5 140.1n 0)
* u1 data_in0 plot_v1
* u8 clk clk_delayed rst data_in3 data_in2 data_in1 data_in0 net-_u8-pad8_ net-_u8-pad9_ net-_u8-pad10_ net-_u8-pad11_ net-_u8-pad12_ net-_u8-pad13_ net-_u8-pad14_ adc_bridge_7
* u6 clk_delayed plot_v1
* u7 clk plot_v1
* u5 rst plot_v1
a1 [net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u10-pad5_ ] [corrected_data3 corrected_data2 corrected_data1 corrected_data0 error ] u10
a2 [net-_u8-pad8_ ] [net-_u8-pad9_ ] [net-_u8-pad10_ ] [net-_u8-pad11_ net-_u8-pad12_ net-_u8-pad13_ net-_u8-pad14_ ] [net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ ] [net-_u10-pad5_ ] u9
a3 [clk clk_delayed rst data_in3 data_in2 data_in1 data_in0 ] [net-_u8-pad8_ net-_u8-pad9_ net-_u8-pad10_ net-_u8-pad11_ net-_u8-pad12_ net-_u8-pad13_ net-_u8-pad14_ ] u8
* Schematic Name:                             dac_bridge_5, Ngspice Name: dac_bridge
.model u10 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             razor_ff, Ngspice Name: razor_ff
.model u9 razor_ff(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_7, Ngspice Name: adc_bridge
.model u8 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 10e-09 500e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(data_in3)
plot v(data_in2)
plot v(data_in1)
plot v(corrected_data2)
plot v(corrected_data3)
plot v(corrected_data1)
plot v(corrected_data0)
plot v(error)
plot v(data_in0)
plot v(clk_delayed)
plot v(clk)
plot v(rst)
.endc
.end
